US09233920B2
Alternatively, to a solution of 3-[3,5-bis(trifluoromethyl)anilino]-4-[[(S)-(6-methoxy-4-quinolyl)-[(1S,2S,5S)-5-vinylquinuclidin-2-yl]methyl]amino]cyclobut-3-ene-1,2-dione (13 mg, prepared according to the literature: Org. Lett., 2010, 12 (23), 5450-5453) and nitromethane (0.6 ml) under argon, was added 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester (100 mg). The solution was heated for 5 days at 50° C. then more catalyst (15 mg) was added. The reaction was heated again for 3 days at 50° C. then allowed to stand at room temperature for 15 days. Water was then added and the resulting mixture was extracted with dichloromethane and the combined organic fractions were dried over sodium sulfate. The crude product was purified by flash chromatography (0% to 5% ethyl acetate in cyclohexane) to afford 4-[(R)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester (26 mg). Chiral HPLC analysis (Chiralpack IA, Heptane:2-propanol=90:10, 1 ml/min, retention time 6.13 minutes (major enantiomer), 7.29 minutes (minor enantiomer) indicated that the reaction proceeded with 61% enantioselectivity in favor of the R enantiomer.

reactant | nitromethane | 0.6 ml | [N+](=O)([O-])C | CH3NO2
reactant | 4-[(E)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-but-2-enoyl]-2-methyl-benzoic acid tert-butyl ester | 100 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(\C=C(\C(F)(F)F)/C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C22H19Cl2F3O3
solvent | Water | O | H2O
product | 4-[(R)-3-(3,5-Dichloro-phenyl)-4,4,4-trifluoro-3-nitromethyl-butyryl]-2-methyl-benzoic acid tert-butyl ester | 26 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(C[C@](C(F)(F)F)(C[N+](=O)[O-])C1=CC(=CC(=C1)Cl)Cl)=O)C)=O | C23H22Cl2F3NO5
